US08710043B2
Step 2. (S)-5-Cyano-N-((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)-methyl)-6-oxo-1,6-dihydropyridine-3-carboxamide
To a solution of (S)-5-bromo-N-((3-fluoropyridin-2-yl)(4-(trifluoro-methyl)phenyl)methyl)-6-oxo-1,6-dihydropyridine-3-carboxamide (0.080 g, 0.170 mmol) in DMF (0.5 mL) was added zinc(II) cyanide (0.043 mL, 0.681 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.020 g, 0.017 mmol). The resulting mixture was then subjected to a microwave irradiation at 130° C. for 30 min. Then, the mixture was purified by preparative HPLC (0%-100% MeCN 0.1% TFA/H2O 0.1% TFA) to give the title compound as a white solid. 1H NMR (400 MHz, MeOH) δ ppm 8.63 (d, J=2.5 Hz, 1H), 8.51 (d, J=4.7 Hz, 1H), 8.42 (d, J=2.5 Hz, 1H), 7.55-7.73 (m, 6H), 7.47 (dt, J=8.5, 4.4 Hz, 1H), 6.75 (s, 1H). MS (ESI pos. ion) m/z: 417.0 (M+H).

reactant | (S)-5-bromo-N-((3-fluoropyridin-2-yl)(4-(trifluoro-methyl)phenyl)methyl)-6-oxo-1,6-dihydropyridine-3-carboxamide | 0.170 mmol, 0.080 g | BrC1=CC(=CNC1=O)C(=O)N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1F | C19H12BrF4N3O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | zinc(II) cyanide | 0.681 mmol, 0.043 mL | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 0.020 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-5-Cyano-N-((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)-methyl)-6-oxo-1,6-dihydropyridine-3-carboxamide | C(#N)C1=CC(=CNC1=O)C(=O)N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1F | C20H12F4N4O2
